US07375124B2
Preparation of methyl 2-[4-[2-(4-chloro-phenyl)ethoxy]phenylthio]isobutyrate (ST1929)
The title product was prepared according to the procedure described in Method B starting from methyl 2-(4-hydroxyphenylthio)isobutyrate (prepared as described above) (0.800 g, 3.54 mmol) and 4-chlorophenetyl alcohol (0.554 g, 3.54 mmol) in 20 mL of anhydrous THF. DEAD (0.801 g, 4.6 mmol) and triphenylphosphine (1.205 g, 4.6 mmol) were added piecemeal in small portions, maintaining the temperature below 30° C. The reaction was left overnight under magnetic stirring at room temperature. After this period, the solvent was evaporated and the residue purified by silica gel chromatography using hexane/ethyl acetate 9/1 as eluent. 0.416 g of oily product were obtained (yield: 32%); TLC: silica gel, eluent hexane/ethyl acetate 9/1, Fr: 0.32; 1H NMR (CDCl3, 300 MHz) δ: 7.40-7.19 (m, 6H), 6.80 (d, 2H), 4.15 (t, 2H), 3.65 (s, 3H), 3.08 (t, 2H) 1.45 (s, 6H); HPLC: Column: Symmetry—C18, (5 μm) 4.6×250 mm, T: 30° C., mobile phase CH3CN/H2O 70/30 (v/v), pH: as is, flow rate: 0.75 mL/min, 205 nm UV detector, retention time 31.40 min; KF: 0.4% H2O; E.A. conforming for C19H21ClO3S.

reactant | methyl 2-(4-hydroxyphenylthio)isobutyrate | 3.54 mmol, 0.800 g | OC1=CC=C(C=C1)SC(C(=O)OC)(C)C | C11H14O3S
reactant | 4-chlorophenetyl alcohol | 3.54 mmol, 0.554 g | ClC1(CC=C(C=C1)O)OCC | C8H11ClO2
reactant | DEAD | 4.6 mmol, 0.801 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 4.6 mmol, 1.205 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 2-[4-[2-(4-chloro-phenyl)ethoxy]phenylthio]isobutyrate | yield: 32% | ClC1=CC=C(C=C1)CCOC1=CC=C(C=C1)SC(C(=O)OC)(C)C | C19H21ClO3S
